US09169267B2
4-[2-(biphenyl-4-yl)-2-oxoethyl]tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium bromide
A solution of 2.751 g (10 mmol) 2-bromo-4′-phenylacetophenone and 1.152 g (10 mmol) tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazole in 20 ml of isopropanol was refluxed for 30 minutes. The reaction mixture was allowed to cool overnight and the precipitate was then filtered off, washed twice with dichloromethane and dried. 3.520 g (90.2%) of white fine crystalline product was obtained.

reactant | 2-bromo-4′-phenylacetophenone | 10 mmol, 2.751 g | BrCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H11BrO
reactant | tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazole | 10 mmol, 1.152 g | O1CCN2C1OCC2 | C5H9NO2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-[2-(biphenyl-4-yl)-2-oxoethyl]tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium bromide | 3.520 g, 90.2% | [Br-].C1(=CC=C(C=C1)C(C[N+]12C(OCC1)OCC2)=O)C2=CC=CC=C2 | InChI=1S/C19H20NO3.BrH/c21-18(14-20-10-12-22-19(20)23-13-11-20)17-8-6-16(7-9-17)15-4-2-1-3-5-15;/h1-9,19H,10-14H2;1H/q+1;/p-1
